US05071847
1-{3-[4-[Bis(4-fluorophenyl)methylene]piperidino]propyl}-4-(2-pyrimidinyl)piperazine dihydrochloride
A mixture of 0.89 g of 1-(3-chloropropyl)-4-(2-pyrimidinyl)piperazine, 0.80 g of 4-[bis(4-fluorophenyl)methylene]piperidine and 0.51 g of potassium carbonate in 30 ml of 4-methyl-2-pentanone is brought to reflux for 48 hours in the presence of a trace of potassium iodide. The solvent is evaporated off and the residue is taken up in dichloromethane. The solution is washed with water. It is concentrated. The residue obtained is purified on a silica column using a mixture of dichloromethane and methanol (80:20 V/V) as eluent.

reactant | 1-(3-chloropropyl)-4-(2-pyrimidinyl)piperazine | 0.89 g | ClCCCN1CCN(CC1)C1=NC=CC=N1 | C11H17ClN4
reactant | 4-[bis(4-fluorophenyl)methylene]piperidine | 0.80 g | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | potassium carbonate | 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | 30 ml | CC(CC(C)=O)C | C6H12O
product | 1-{3-[4-[Bis(4-fluorophenyl)methylene]piperidino]propyl}-4-(2-pyrimidinyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(=C1CCN(CC1)CCCN1CCN(CC1)C1=NC=CC=N1)C1=CC=C(C=C1)F | InChI=1S/C29H33F2N5.2ClH/c30-26-7-3-23(4-8-26)28(24-5-9-27(31)10-6-24)25-11-17-34(18-12-25)15-2-16-35-19-21-36(22-20-35)29-32-13-1-14-33-29;;/h1,3-10,13-14H,2,11-12,15-22H2;2*1H
